US07332486B2
To a solution of 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (920 mg, 4.2 mmol) in acetone/water [70 mL (1:1)] was added sodium periodate (2.69 g, 12.6 mmol) and ammonium acetate (810 mg, 10.5 mmol), and allowed to stir at room temperature for 12 hours. The reaction mixture was filtered and concentrated under vacuum to afford desired 2-methyl-4-pyridineboronic acid (575 mg). (Note: This material can be used w/o further purification in Example 13.)

reactant | 2-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 4.2 mmol, 920 mg | CC1=NC=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H18BNO2
reactant | sodium periodate | 12.6 mmol, 2.69 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | ammonium acetate | 10.5 mmol, 810 mg | C(C)(=O)[O-].[NH4+]
solvent | acetone water | 70 mL | CC(=O)C.O
product | 2-methyl-4-pyridineboronic acid | 575 mg | CC1=NC=CC(=C1)B(O)O | C6H8BNO2
